US08957062B2
Step A: cyclopropylmethyl 2,5-dioxopyrrolidin-1-yl carbonate
To a stirred solution of cyclopropylmethanol (1.0 g, 13.8 mmol) in acetonitrile (15 mL) was added bis(2,5-dioxopyrrolidin-1-yl) carbonate (7.1 g, 27.7 mmol) and triethylamine (5.8 mL, 41.6 mmol). The reaction was stirred overnight then quenched with saturated NaHCO3 (aq.) and extracted with ethyl acetate (3×50 mL), dried over sodium sulfate, filtered and concentrated under reduced pressure to provide the title compound as an amber oil: 1H NMR (300 MHz, CDCl3) δ 4.16 (d, J=7.5 Hz, 2H), 2.84 (s, 4H), 1.26 (m, 1H), 0.70-0.64 (m, 2H), 0.40-0.35 (m, 2H).

reactant | cyclopropylmethanol | 13.8 mmol, 1.0 g | C1(CC1)CO | C4H8O
reactant | bis(2,5-dioxopyrrolidin-1-yl) carbonate | 27.7 mmol, 7.1 g | C(ON1C(CCC1=O)=O)(ON1C(CCC1=O)=O)=O | C9H8N2O7
reactant | triethylamine | 41.6 mmol, 5.8 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | cyclopropylmethyl 2,5-dioxopyrrolidin-1-yl carbonate | C(OCC1CC1)(ON1C(CCC1=O)=O)=O | C9H11NO5
